US07427613B2
Methyl(3-phenoxypropyl)amine
Synthesized according to typical procedures C and D from 3-phenoxypropionic acid and methylamine.

reactant | 3-phenoxypropionic acid | O(C1=CC=CC=C1)CCC(=O)O | C9H10O3
reactant | methylamine | CN | CH5N
product | Methyl(3-phenoxypropyl)amine | CNCCCOC1=CC=CC=C1 | C10H15NO
